US08455525B2
4-((1R,2R)-2-(tert-Butyldimethylsilyloxy)-1-(5-(4-cyanophenyl)-1,3,4-oxadiazol-2-yl)propylamino)-3-methyl-2-(trifluoromethyl)benzonitrile
Triphenylphosphine (590 mg, 2.25 mmol) was dissolved in 25 mL of DCM followed by addition of 12 (571 mg, 2.25 mmol) and TEA (456 mg, 4.50 mmol) at 0° C. N′-((2R,3R)-3-(tert-butyldimethylsilyloxy)-2-(4-cyano-2-methyl-3-(trifluoromethyl)phenylamino)butanoyl)-4-cyanobenzohydrazide (630 mg, 1.13 mmol) in 25 mL DCM was added to the pre-cooled solution mixture of PPh3/I2/TEA system and stirred. The temperature was allowed to rise to room temperature and stirred for additional 10 min. The reaction was quenched with 50 mL saturated sodium thiosulfate and extract with EtOAc. The crude mixture was chromatographed to give the product (510 mg, 84%) 1H NMR (400 MHz, acetone-d6, δ in ppm): 8.23 (d, J=9 Hz, 2H), 8.04 (d, J=9 Hz, 2H), 7.67 (d, J=9 Hz, 1H), 7.27 (d, J=9 Hz, 1H), 5.94 (d, J=9 Hz, 1H), 5.19 (m, 1H), 4.74 (m, 1H), 2.39 (m, 3H), 1.48 (d, J=6 Hz, 3H), 0.81 (s, 9H), 0.12 (s, 3H), 0.00 (s, 3H).

reactant | Triphenylphosphine | 2.25 mmol, 590 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N′-((2R,3R)-3-(tert-butyldimethylsilyloxy)-2-(4-cyano-2-methyl-3-(trifluoromethyl)phenylamino)butanoyl)-4-cyanobenzohydrazide | 1.13 mmol, 630 mg | [Si](C)(C)(C(C)(C)C)O[C@@H]([C@H](C(=O)NNC(C1=CC=C(C=C1)C#N)=O)NC1=C(C(=C(C=C1)C#N)C(F)(F)F)C)C | C27H32F3N5O3Si
solvent | DCM | 25 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 25 mL | C(Cl)Cl | CH2Cl2
product | 4-((1R,2R)-2-(tert-Butyldimethylsilyloxy)-1-(5-(4-cyanophenyl)-1,3,4-oxadiazol-2-yl)propylamino)-3-methyl-2-(trifluoromethyl)benzonitrile | 510 mg, 84% | [Si](C)(C)(C(C)(C)C)O[C@@H]([C@H](C=1OC(=NN1)C1=CC=C(C=C1)C#N)NC1=C(C(=C(C#N)C=C1)C(F)(F)F)C)C | C27H30F3N5O2Si
